US04144344
A mixture of 17.9 g of 1-[4-methoxy-phenyl)-3-(4-piperidyl)-2-imidazolidinone and 11.7 g of 1-(2-methoxyphenyloxy)-2,3-epoxypropane in 200 ml of isopropyl alcohol is refluxed for 6 hours. The mixture is thereafter acidified with 5N methanolic hydrochloric acid and concentrated under reduced pressure. The residue is freed from moisture still adhering to it by treatment with toluene. Recrystallisation of the residue from methanol with the addition of activated charcoal yields the 1-{1-[2-hydroxy-3-(2-methoxyphenoxy)-propyl]-4-piperidyl}-3-(4-methoxy-phenyl)-imidazolidin-2-one-hydrochloride as a white crystalline substance with a melting point of 214°-215° C.

reactant | 1-[4-methoxy-phenyl)-3-(4-piperidyl)-2-imidazolidinone | 17.9 g | COC1=CC=C(C=C1)N1C(N(CC1)C1CCNCC1)=O | C15H21N3O2
reactant | 1-(2-methoxyphenyloxy)-2,3-epoxypropane | 11.7 g | COC1=C(C=CC=C1)OCC1CO1 | C10H12O3
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | 1-{1-[2-hydroxy-3-(2-methoxyphenoxy)-propyl]-4-piperidyl}-3-(4-methoxy-phenyl)-imidazolidin-2-one-hydrochloride | Cl.OC(CN1CCC(CC1)N1C(N(CC1)C1=CC=C(C=C1)OC)=O)COC1=C(C=CC=C1)OC | InChI=1S/C25H33N3O5.ClH/c1-31-22-9-7-19(8-10-22)27-15-16-28(25(27)30)20-11-13-26(14-12-20)17-21(29)18-33-24-6-4-3-5-23(24)32-2;/h3-10,20-21,29H,11-18H2,1-2H3;1H
